US06576643B2
d) 4-Methoxy-2-(2-methylbenzyl)phenylacetic Acid
According to the procedure of Preparation 10 (c), except substituting 4-methoxy-2-(2-methylbenzoyl)phenylacetic acid for the 2-benzoyl-4-methoxyphenylacetic acid, the title compound was obtained as a viscous oil: MS (ES) m/e 288.2 (M+NH4)+.

reactant | 4-methoxy-2-(2-methylbenzoyl)phenylacetic acid | COC1=CC(=C(C=C1)CC(=O)O)C(C1=C(C=CC=C1)C)=O | C17H16O4
reactant | 2-benzoyl-4-methoxyphenylacetic acid | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)OC)CC(=O)O | C16H14O4
product | 4-Methoxy-2-(2-methylbenzyl)phenylacetic Acid | COC1=CC(=C(C=C1)CC(=O)O)CC1=C(C=CC=C1)C | C17H18O3
